US09260375B2
2,3-Dibenzylmaleic anhydride
To the suspension of (2S,3S)-2,3-dibenzylsuccinic anhydride thus obtained in anhydrous toluene (3.5 mL) were added triethylamine (361 mg, 2.54 mmol) and trimethylsilyltrifluoromethanesulfonic acid (565 mg, 2.54 mmol) with stirring under ice cooling, and the mixture was stirred at 90° C. for 2 h. To the reaction mixture with stirring under ice cooling was added dropwise a solution of tetrabutylammonium bromide (2.7 mg, 0.00845 mmol) in dichloromethane (3 mL) and bromine (140 mg, 0.876 mmol), and the reaction mixture was stirred at the same temperature for 30 min. The reaction mixture was directly concentrated under reduced pressure and the residue thus obtained was subjected to silica gel column chromatography (hexane-ethyl acetate 8:1) to give 59 mg of the title compound as a solid (2 step yield: 25%).

reactant | (2S,3S)-2,3-dibenzylsuccinic anhydride | C(C1=CC=CC=C1)[C@@H]1C(=O)OC([C@H]1CC1=CC=CC=C1)=O | C18H16O3
reactant | triethylamine | 2.54 mmol, 361 mg | C(C)N(CC)CC | C6H15N
reactant | trimethylsilyltrifluoromethanesulfonic acid | 2.54 mmol, 565 mg | C[Si](C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
reactant | bromine | 0.876 mmol, 140 mg | BrBr | Br2
solvent | toluene | 3.5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | tetrabutylammonium bromide | 0.00845 mmol, 2.7 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2,3-Dibenzylmaleic anhydride | 59 mg, yield: 25% | C(C1=CC=CC=C1)/C=1/C(=O)OC(\C1\CC1=CC=CC=C1)=O | C18H14O3
